US08350044B2
Preparation of ethyl 5-amino-2-(pyridin-3-yl)thiazole-4-carboxylate
To a round bottom flask containing ethyl 5-bromo-2-(pyridin-3-yl)thiazole-4-carboxylate (2.5 g, 7.98 mmol) in DMF (26.6 ml)/water (13.3 ml) was carefully added sodium azide (2.59 g, 39.9 mmol) and stirred overnight at 75° C. The reaction was cooled to room temperature and poured into water which was extracted with ethyl acetate. The ethyl acetate layers were combined and washed with hexanes/water. The ethyl acetate extracts were dried (MgSO4), filtered and concentrated to dryness. The crude material was purified by silica gel column chromatography (0 to 75% ethylacetate/hexanes) to give the desired product as a white solid (0.6 g, 30%) 1H NMR (300 MHz, CDCl3) δ 8.98 (s, 1H), 8.63 (d, 1H), 8.19 (d, 1H), 7.45-7.32 (m, 1H), 6.3 (s, 2H), 4.46 (q, 2H), 1.43 (t, 3H). ESIMS m/z 251.1 (M+2).

reactant | ethyl 5-bromo-2-(pyridin-3-yl)thiazole-4-carboxylate | 7.98 mmol, 2.5 g | BrC1=C(N=C(S1)C=1C=NC=CC1)C(=O)OCC | C11H9BrN2O2S
reactant | water | 13.3 ml | O | H2O
reactant | sodium azide | 39.9 mmol, 2.59 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 26.6 ml | CN(C)C=O | C3H7NO
product | ethyl 5-amino-2-(pyridin-3-yl)thiazole-4-carboxylate | 0.6 g, 30% | NC1=C(N=C(S1)C=1C=NC=CC1)C(=O)OCC | C11H11N3O2S
